* C:\Users\KeithH\eagle\DEC340\xtra\LTspice\follow_hold.asc
V4 N025 0 SINE(-5 5 4000K) AC 1
Q12 N031 N026 N020 0 2N3906
V5 0 N042 15 Rser=0
R6 N015 N011 680
C3 N013 0 120pF V=6.3 Irms=173m Rser=1.00156 Lser=0
R10 N023 N022 1000
R14 N023 0 1000K
Q8 N017 N014 N013 0 2N5089
Q9 N013 N015 N017 0 2N5089
Q10 N009 N016 N022 0 2N2222
Q2 N032 N020 N017 0 2N2907
Q4 N008 N013 N016 0 2N3904
R5 N026 N025 120
R1 N032 N042 120
C2 N032 0 .01µF
R2 N031 N042 560
R9 N002 N009 390
C5 N009 0 .01µF
R11 N002 N008 1.5K
C6 N008 0 .01µF
Q6 N011 N001 N003 0 2N3906
Q3 N019 N034 N042 0 2N3904
Q7 N004 N028 N042 0 2N3904
R13 N002 N019 1K
R15 N002 N004 560
C1 N005 N004 330pF
R16 N019 N018 1K
C7 N036 N035 .001µF
V6 N024 0 PULSE(0 5 1uS 20n 20n 20n 1uS 1)
R19 N002 N005 560
R20 N028 N036 220
D1 N005 N034 1N4148
D2 N034 N019 RB521SM-40
D3 N028 N004 RB521SM-40
R21 N005 N042 560
C8 N019 N018 56pF
Q11 N002 N012 N030 0 2N2222
R22 N030 N042 560
D6 N011 N030 1N4148
R23 N002 N012 560
R24 N018 N028 120
R25 N018 N033 120
Q14 N012 N033 N042 0 2N3904
D5 N033 N012 RB521SM-40
Q13 N035 N029 N041 0 2N3904
Q15 N021 N024 N027 0 2N3904
R17 N027 N035 1500
Q17 N017 N001 N010 0 2N2907
V1 N002 0 10 Rser=0
Q19 N020 N001 N007 0 2N3906
C4 N031 0 .01µF
R18 N002 N007 120
R26 N014 N011 680
Q16 N029 N029 N037 0 2N3904
Q20 N016 N029 N039 0 2N3904
Q21 N022 N029 N038 0 2N2222
R8 N039 N042 120
Q22 N001 N001 N006 0 2N2907
R3 N002 N003 33
R27 N037 N042 27
R28 N038 N042 27
R29 N002 N010 27
R32 N002 N006 27
R34 N002 N021 470
R35 N012 N042 10K
R7 0 N029 1.5K
R12 N041 N042 27
Q1 N001 N029 N040 0 2N3904
R31 N040 N042 27
C9 N005 N004 680pF
.model D D
.lib C:\Users\KeithH\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\KeithH\Documents\LTspiceXVII\lib\cmp\standard.bjt
;tran 0 23u 18u
.tran 0 2uS 0
.backanno
.end
